US08242102B2
8-(1-Benzylpyrrolidin-3-yl)-3-(phenylsulfonyl)quinoline
3-(Phenylsulfonyl)-8-vinylquinoline (210 mg, 0.71 mmol, prepared according to WO2007039219) was reacted with benzyl methoxymethyl trimethylsilylmethyl amine (253 mg, 1.07 mmol) in dichloromethane (2 ml) in the presence of trifluoroacetic acid for 20 minutes. The solution was washed with a saturated aqueous solution of NaHCO3 solution, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by chromatography (100% dichloromethane) to give the title compound as a colourless oil (100 mg, 33%).

reactant | 3-(Phenylsulfonyl)-8-vinylquinoline | 0.71 mmol, 210 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)C=C | C17H13NO2S
reactant | benzyl methoxymethyl trimethylsilylmethyl amine | 1.07 mmol, 253 mg | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 8-(1-Benzylpyrrolidin-3-yl)-3-(phenylsulfonyl)quinoline | 100 mg, 33% | C(C1=CC=CC=C1)N1CC(CC1)C=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC=CC=C1 | C26H24N2O2S
